US07166588B2
2-Bromo-4-methoxy-5-(1-methylethoxy)benzene acetonitrile
1-Bromo-2-(chloromethyl)-5-methoxy-4-(1-methylethoxy)benzene (7.00 g, 23.8 mmol) and potassium cyanide (1.70 g, 26.1 mmol, freshly ground) are stirred in absolute DMSO (70 ml) for 12 hours at room temperature.

reactant | 1-Bromo-2-(chloromethyl)-5-methoxy-4-(1-methylethoxy)benzene | 23.8 mmol, 7.00 g | BrC1=C(C=C(C(=C1)OC)OC(C)C)CCl | C11H14BrClO2
reactant | potassium cyanide | [C-]#N.[K+]
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 2-Bromo-4-methoxy-5-(1-methylethoxy)benzene acetonitrile | BrC1=C(C=C(C(=C1)OC)OC(C)C)CC#N | C12H14BrNO2
